US09427475B2
Step D: 6-[(2,5-dioxopyrrolidin-1-yl)oxy]-N-(2-{[α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl]oxy}ethyl)-6-oxohexanamide
To a solution of 6-({2-[(α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl)oxy]ethyl}amino)-6-oxohexanoic acid (1.55 g, 2.294 mmol) in DMF (22 mL) at 0° C. was added TSTU (760 mg, 2.52 mmol) and DIPEA (0.52 mL, 2.98 mmol). After stirring at 0° C. for 1 hr, the reaction was quenched by the addition of TFA (371 μL, 4.82 mmol) and the resulting mixture was concentrated down to about 3 mL. The residue was transferred dropwise, via autopipette, to a tube containing anhydrous acetonitrile (45 mL). The white precipitate was collected through centrifugation (3000 rpm, 15 min, at 4° C.), washed with anhydrous AcCN (1 mL) and dried to yield the title compound. UPLC Method B: calculated for C30H48N2O21 772.27, observed m/e: 773.23 [M+1]; Rt=3.65 min. 1H NMR (D2O) δ 5.07-5.06 (1H, m), 4.84-4.83 (1H, m), 4.79-4.78 (1H, m), 4.06-4.01 (2H, m), 3.96-3.93 (2H, m), 3.87-3.83 (5H, m), 3.80-3.78 (1H, m), 3.75-3.69 (5H, m), 3.67-3.61 (4H, m), 3.57-3.52 (1H, m), 3.41-3.38 (2H, m), 2.91 (4H, s), 2.75-2.71 (2H, m), 2.29-2.25 (2H, m), 1.75-1.58 (4H, m).

reactant | 6-({2-[(α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl)oxy]ethyl}amino)-6-oxohexanoic acid | 2.294 mmol, 1.55 g | [C@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@@H]1[C@@H]([C@H](O[C@@H]([C@H]1O)CO[C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OCCNC(CCCCC(=O)O)=O)O | C26H45NO19
reactant | TSTU | 2.52 mmol, 760 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
reactant | DIPEA | 2.98 mmol, 0.52 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TFA | 4.82 mmol, 371 μL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 22 mL | CN(C)C=O | C3H7NO
product | 6-[(2,5-dioxopyrrolidin-1-yl)oxy]-N-(2-{[α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl]oxy}ethyl)-6-oxohexanamide | O=C1N(C(CC1)=O)OC(CCCCC(=O)NCCO[C@@H]1[C@@H](O)[C@@H](O[C@@H]2[C@@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)[C@H](O)[C@H](O1)CO[C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)=O | C30H48N2O21
